US06921759B2
Into a pressure reactor was placed 5-bromo-N-(2,3-dimethoxybenzyl)-8-hydroxy-1,6-naphthyridine-7-carboxamide (0.1 g, 0.24 mmol), 4-(dimethylamino)benzenethiol (0.147 g, 0.96 mmol) and triethylamine (0.363 g, 0.5 mL, 3.59 mmol). The vessel was purged with nitrogen gas, sealed and heated to 135° C. for 18 hours, after which time it was cooled and the excess triethylamine removed in vacuo. The residue was partitioned between EtOAc/water and extracted. The combined organic extracts were washed with brine, dried over Na2SO4, filtered and the solvent removed. The resulting glass was triturated with diethyl ether and filtered to yield N-(2,3-dimethoxybenzyl)-5-{[4-(dimethylamino)phenyl]thio}-8-hydroxy-1,6-naphthyridine-7-carboxamide as a solid.

reactant | 5-bromo-N-(2,3-dimethoxybenzyl)-8-hydroxy-1,6-naphthyridine-7-carboxamide | 0.24 mmol, 0.1 g | BrC1=C2C=CC=NC2=C(C(=N1)C(=O)NCC1=C(C(=CC=C1)OC)OC)O | C18H16BrN3O4
reactant | 4-(dimethylamino)benzenethiol | 0.96 mmol, 0.147 g | CN(C1=CC=C(C=C1)S)C | C8H11NS
reactant | triethylamine | 3.59 mmol, 0.5 mL, 0.363 g | C(C)N(CC)CC | C6H15N
product | N-(2,3-dimethoxybenzyl)-5-{[4-(dimethylamino)phenyl]thio}-8-hydroxy-1,6-naphthyridine-7-carboxamide | COC1=C(CNC(=O)C2=NC(=C3C=CC=NC3=C2O)SC2=CC=C(C=C2)N(C)C)C=CC=C1OC | C26H26N4O4S
